US04227014
Preparation of ethyl 4-(8-cyclohexyloctylamino)hippurate
A solution of 18.0 g. of 4-(8-cyclohexyloctylamino)benzoyl chloride hydrochloride in 100 ml. of dioxane is added to freshly prepared ethyl glycinate in 300 ml. of CH2Cl2 containing 1 g. of dimethylaminopyridine and 10 ml. of triethylamine. After 16 hours at room temperature the reaction mixture was refluxed for 2 hours, cooled and filtered. The mother liquor is extracted with water and 10% hydrochloric acid. The solution is dried over magnesium sulfate and concentrated in vacuo to an amber liquid. A 6 g. sample is pre-absorbed on 30 g. of silica III and placed on 250 ml. of alumina and eluted with ether giving 4.2 g. of solid. Thin-layer chromatography (hexane:ethylacetate, 3:1) indicates three components so this material (3 g.) is chromatographed on silica giving a solid which is recrystallized from acetonitrile to yield the product.

reactant | 4-(8-cyclohexyloctylamino)benzoyl chloride hydrochloride | Cl.C1(CCCCC1)CCCCCCCCNC1=CC=C(C(=O)Cl)C=C1
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | ethyl glycinate | NCC(=O)OCC | C4H9NO2
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 1 g | C(Cl)Cl | CH2Cl2
product | ethyl 4-(8-cyclohexyloctylamino)hippurate | C1(CCCCC1)CCCCCCCCNC1=CC=C(C(NCC(=O)OCC)=O)C=C1 | C25H40N2O3
